US04521413
A mixture of diphenylmethyl 7-[2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-chloromethyl-3-cephem-4-carboxylate-1-oxide (syn isomer) (3 g) and 3-dimethylaminopyridine (0.7 g) in tetrahydrofuran (20 ml) was stirred for 2.5 hours at 48° to 50° C. The resulting precipitate was filtered, washed with tetrahydrofuran and dried to give diphenylmethyl 7-[2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-(3-dimethylamino-1-pyridiniomethyl)-3-cephem-4-carboxylate-1-oxide chloride (syn isomer) (3.18 g), mp 120° to 130° C. (dec.).

reactant | diphenylmethyl 7-[2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-chloromethyl-3-cephem-4-carboxylate-1-oxide | 3 g | C(C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2=O)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C1=NSC(=N1)N | C27H25ClN6O6S2
reactant | 3-dimethylaminopyridine | 0.7 g | CN(C=1C=NC=CC1)C | C7H10N2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | diphenylmethyl 7-[2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-(3-dimethylamino-1-pyridiniomethyl)-3-cephem-4-carboxylate-1-oxide chloride | 3.18 g | [Cl-].C(C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2=O)C[N+]2=CC(=CC=C2)N(C)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C1=NSC(=N1)N | InChI=1S/C34H34N8O6S2.ClH/c1-4-47-38-25(29-37-34(35)49-39-29)30(43)36-26-31(44)42-27(23(20-50(46)32(26)42)18-41-17-11-16-24(19-41)40(2)3)33(45)48-28(21-12-7-5-8-13-21)22-14-9-6-10-15-22;/h5-17,19,26,28,32H,4,18,20H2,1-3H3,(H2-,35,36,37,39,43);1H/t26?,32-,50?;/m1./s1
